US08563723B2
3-Cyano-N-[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]-benzenesulfonamide
To a solution of 3.50 g 3-cyanobenzenesulfonyl chloride in 150 mL DCM were added 17.69 mL (6.0 equiv.) DiPEA and 4.00 g (1.0 equiv.) N-ethyl-2,3-diaza-spiro[4.4]non-3-ene-2-carboxamidine. The reaction mixture was stirred overnight at room temperature and extracted with water. The organic phase was dried over Na2SO4 and evaporated, and the residue was purified by automated flash chromatography (EtOAc/PA 1:1) to give 3.54 g (57%) of a pale yellow oil. 1H NMR (400 MHz, CDCl3) δ 1.17 (t, J=8 Hz, 3H), 1.65-1.86 (m, 8H), 3.41-3.50 (m, 2H), 3.87 (br.s., 2H), 6.70-6.80 (br.s., 1H), 6.87 (s, 1H), 7.60 (t, J=8 Hz, 1H), 7.77 (d, J=8 Hz, 1H), 8.17 (d, J=8 Hz, 1H), 8.23 (br.s., 1H).

reactant | 3-cyanobenzenesulfonyl chloride | 3.50 g | C(#N)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | DiPEA | 17.69 mL, 6.0 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | N-ethyl-2,3-diaza-spiro[4.4]non-3-ene-2-carboxamidine | 4.00 g, 1.0 equiv. | C(C)NC(=N)N1CC2(C=N1)CCCC2 | C10H18N4
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 3-Cyano-N-[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]-benzenesulfonamide | 3.54 g, 57% | C(#N)C=1C=C(C=CC1)S(=O)(=O)N=C(NCC)N1CC2(C=N1)CCCC2 | C17H21N5O2S
